US07589232B2
Step a) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylacetyl)amino]-2 fluorobenzoate
The titled compound was prepared following the procedure B using methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate and 2-thiophenacetyl chloride as a pink oil (92%). 1H NMR (CDCl3, 300 MHz) δ 7.61 (dd, J=6.2, 2.5 Hz, 1H), 7.44 (m, 4H), 7.17 (m, 5H), 7.07 (m, 1H), 6.97-6.88 (m, 2H), 6.70 (d, J=3.0 Hz, 1H), 4.90 (s, 2H), 3.94 (s, 31), 3.65 (s, 2H), 2.63 (t, J=7.5 Hz, 2H), 1.61 (m, 2H), 1.37 (m, 2H), 0.94 (t, J=7.4 Hz, 3H). M1(ESI): 540.1. HPLC, Rt: 5.72 min (Purity: 99.2%).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | 2-thiophenacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylacetyl)amino]-2 fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)C(CC=2SC=CC2)=O)C=C1 | C33H30FNO3S
